US04128728
130 g of 1-acetoxybutan-3-one and sodium methylate solution in methanol are dripped in the course of one hour from separate supply vessels while stirring into 400 g of boiling diethyl ketone at such a rate that the reaction mixture remains constantly alkaline. A total of 190 g of a 30% by weight sodium methylate solution is used up in this way. The whole is then heated under reflux for another hour and then neutralized with glacial acetic acid. Deposited sodium acetate is filtered off and the filtrate is subjected to fractional distillation. 81 g of 2,3,6-trimethyl-2-cyclohexen-1-one is obtained as well as traces of 4-methyl-3-ethyl-2-cyclohexen-1-one. The yield with reference to 1-acetoxybutan-3-one is 59%.

reactant | 1-acetoxybutan-3-one | 130 g | C(C)(=O)OCCC(C)=O | C6H10O3
reactant | sodium methylate | C[O-].[Na+]
solvent | methanol | CO | CH4O
product | 2,3,6-trimethyl-2-cyclohexen-1-one | 81 g | CC=1C(C(CCC1C)C)=O | C9H14O
